US04649160
7.0 g of 4-fluorophenethyl alcohol were reacted with 4.73 g of chloroacetic acid in a manner analogous to that described in Example 1(a) to give 7.8 g (79%) of 2-(4-fluorophenyl)ethoxyacetic acid of melting point 82°-85° C. (from methylcyclohexane).

reactant | 4-fluorophenethyl alcohol | 7.0 g | FC1=CC=C(CCO)C=C1 | C8H9FO
reactant | chloroacetic acid | 4.73 g | ClCC(=O)O | C2H3ClO2
reactant | methylcyclohexane | CC1CCCCC1 | C7H14
product | 2-(4-fluorophenyl)ethoxyacetic acid | 7.8 g, 79% | FC1=CC=C(C=C1)CCOCC(=O)O | C10H11FO3
